US07053089B2
(9-Methyl-9H-purin-6-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine
EXAMPLE 84 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 6-chloro-9-methyl-9H-purine (6-chloro-9-methyl-9H-purine prepared according to G. B. Eilon, J. Org. Chem., 27:2478–2491(1962): MS (m+1)=415.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 6-chloro-9-methyl-9H-purine | ClC1=C2N=CN(C2=NC=N1)C | C6H5ClN4
product | (9-Methyl-9H-purin-6-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine | CN1C2=NC=NC(=C2N=C1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1 | C20H26N6O2S
